Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___.
 
Chief Complaint:
Elective Chemotherapy
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
Mr. ___ is a ___ year old male with HIV, DLBCL who is s/p 6 
cycles of DA-EPOCH who presents today for HD-MTX for CNS 
prophylaxis.

The patient was recently admitted at ___ from ___ 
for cycle 6 of EPOCH which was tolerated well.

The patient feels well and is without complaints. He has no 
headache or vision changes. No fevers or chills. No chest pain 
or dyspnea. No abdominal pain. No n/v/d. No dysuria.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___ year old male with PMH of HIV, HTN and HLD, who was admitted 
on ___ for left sided chest pain. He reports he had 
been having left sided chest pain since the end of ___. 
He described the pain as achy and thought he had a pulled 
muscle. He has being followed by his pcp who did ___ chest x ray 
which was negative. Pain worsened, he went to the ___ ER 
___ CTA chest and abdomen revealed a 6 cm soft tissue mass 
surrounding the left fourth rib with an associated pathologic 
fracture, 1.2 cm soft tissue nodule abutting the left psoas, an 
expansile mixed lytic and sclerotic T10 lesion, a 2.5 cm 
indeterminate right adrenal nodule, retroperitoneal LAD. 
Possible bone lesions in L 7th rib, R iliac and R acetabulum. He 
then underwent an ___ guided biopsy of this soft tissue mass on 
___, which showed diffuse large B cell lymphoma, CD20+, CD10 
neg, Ki67 80-90%, EBV RNA neg and BCL 6 rearrangement. He denied 
fevers, chills, night sweats or weight loss. LDH was normal at 
presentation. He was seen locally by Dr. ___ at ___ 
___. Patient was admitted on ___ to initiate da-EPOCH 
cycle 1.

Treatment history: 
- ___: IT MTX
- ___: C1D1 da-EPOCH, dose level 1
- ___: C1D1 Rituxan
- ___: C2D1 da-R-EPOCH, dose level 1
- ___: C3D1 da-R-EPOCH, dose level 2
- ___: C4D1 da-R-EPOCH, dose level 2
- ___: C5D1 da-R-EPOCH, dose level 2
- ___: C6D1 da-R-EPOCH, dose level 2

PAST MEDICAL HISTORY:
- HIV-dx in ___
- HTN
- HLD
- Depression
- Shingles
- Seasonal Allergies
- s/p tonsillectomy at age ___ 
 
Social History:
___
Family History:
Mother (d) ___- MI
Father (d) ___- aortic stenosis, COPD
PGM (d) ___ - Stomach CA
PGF (d) ___ - MI
2 Brothers with hemochromatosis
Another brother and 1 sister all alive and well.
No other known family history of blood cancers or blood 
disorders.
 
Physical Exam:
========================
Admission Physical Exam:
========================
VS: Temp 97.7, BP 121/77, HR 79, RR 18, O2 sat 98% RA. 
GENERAL: NAD.
HEENT: Clear, OP without lesions, moist membranes.
EYES: PERRL, anicteric.
RESP: CTAB, no wheezing, rhonchi, or crackles.
___: RRR, no MRG.
GI: Soft, NTND, no HSM.
EXT: Warm, no edema.
NEURO: CN II-XII intact.
ACCESS: R POC c/d/I.

========================
Discharge Physical Exam:
========================
VS: Temp 98.3, BP 126/80, HR 76, RR 18, O2 sat 95% RA.
Exam otherwise unchanged.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 01:15PM BLOOD WBC-2.9* RBC-2.63* Hgb-9.7* Hct-29.3* 
MCV-111* MCH-36.9* MCHC-33.1 RDW-16.0* RDWSD-65.4* Plt ___
___ 01:15PM BLOOD Neuts-70.7 Lymphs-15.6* Monos-11.6 
Eos-0.0* Baso-1.4* Im ___ AbsNeut-2.08 AbsLymp-0.46* 
AbsMono-0.34 AbsEos-0.00* AbsBaso-0.04
___ 01:15PM BLOOD UreaN-12 Creat-1.0 Na-144 K-4.1 Cl-106 
HCO3-23 AnGap-15
___ 01:15PM BLOOD ALT-13 AST-23 LD(LDH)-208 AlkPhos-66 
TotBili-0.3
___ 01:15PM BLOOD Calcium-9.0

===============
Admission Labs:
===============
___ 06:05AM BLOOD WBC-2.7* RBC-2.62* Hgb-9.5* Hct-28.8* 
MCV-110* MCH-36.3* MCHC-33.0 RDW-15.3 RDWSD-61.9* Plt ___
___ 06:05AM BLOOD Glucose-100 UreaN-5* Creat-0.9 Na-144 
K-3.6 Cl-99 HCO3-34* AnGap-11
___ 06:05AM BLOOD ALT-26 AST-31 AlkPhos-60 TotBili-0.7
___ 06:05AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0

=============
Methotrexate:
=============
___ 05:27AM BLOOD mthotrx-2.2*
___ 06:05AM BLOOD mthotrx-0.16
___ 05:05PM BLOOD mthotrx-0.10
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of HIV 
and DLBCL s/p C6 DA-EPOCH who presents for HD-MTX for CNS ppx.

# DLBCL
# Encounter for Chemotherapy: Patient presented for elective 
HD-MTX. His urine was alkalinized per protocol and he received 
HD-MTX per OMS order set. He then received leucovorin rescue per 
protocol. MTX levels were checked q24H until <0.1. The treatment 
was tolerated well. He was maintained on a MTX while in house. 
Bactrim was held while on HD-MTX, instructed to restart at 
discharge. Continued acyclovir.

# HIV: Continued dolutegravir and emtricitabine-tenofovir.

# Anemia in Malignancy: Stable.

# Leukopenia: Attributed to prior chemotherapy.

# Hypokalemia: Patient declining sliding scale. Will increase 
banana intake per patient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Cetirizine 10 mg PO DAILY:PRN allergies 
3. Dolutegravir 50 mg PO DAILY 
4. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
5. LORazepam 0.5-1 mg PO Q4H:PRN 
nausea/vomiting/anxiety/insomnia 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line
 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Cetirizine 10 mg PO DAILY:PRN allergies  
3.  Dolutegravir 50 mg PO DAILY  
4.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
5.  LORazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia  
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
8.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- DLBCL
- Encounter for Chemotherapy
- HIV
- Hypokalemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You came to the hospital for 
methotrexate infusion. This was tolerated well.

Your discharge appointments and medications are detailed below. 
Please restart your Bactrim on ___.

We wish you the best!
Your ___ Care Team
 
Followup Instructions:
___